* c:\users\mistr\esim-workspace\bin_to_gray\bin_to_gray.cir

* u5  net-_u4-pad4_ net-_u4-pad5_ net-_u5-pad3_ d_xor
* u6  net-_u4-pad5_ net-_u4-pad6_ net-_u6-pad3_ d_xor
* u4  b2 b1 b0 net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
* u7  net-_u4-pad4_ net-_u5-pad3_ net-_u6-pad3_ g2 g1 net-_r2-pad1_ dac_bridge_3
r1  g2 gnd 100
r3  g1 gnd 100
r2  net-_r2-pad1_ gnd 100
* u10  g1 plot_v1
* u1  b2 plot_v1
* u2  b1 plot_v1
* u3  b0 plot_v1
* u9  net-_r2-pad1_ plot_v1
* u8  g2 plot_v1
v1 b2 gnd  dc 5
v2 b1 gnd  dc 5
v3 b0 gnd  dc 5
a1 [net-_u4-pad4_ net-_u4-pad5_ ] net-_u5-pad3_ u5
a2 [net-_u4-pad5_ net-_u4-pad6_ ] net-_u6-pad3_ u6
a3 [b2 b1 b0 ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
a4 [net-_u4-pad4_ net-_u5-pad3_ net-_u6-pad3_ ] [g2 g1 net-_r2-pad1_ ] u7
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u5 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_xor, NgSpice Name: d_xor
.model u6 d_xor(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(g1)
plot v(b2)
plot v(b1)
plot v(b0)
plot v(net-_r2-pad1_)
plot v(g2)
.endc
.end
